US08455479B2
To a solution of 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (10.0 g, 38.16 mmol) in dry THF (300 mL) at 0° C., was added potassium tert-butoxide (6.4 g, 56.76 mmol) under nitrogen atmosphere and the reaction mixture was stirred at this temperature for 30 min followed by dropwise addition of diethylchlorophosphate (11 mL, 76.3.3 mmol). The reaction mixture was stirred at 0° C. for 40 min. This solution was transferred via cannula to a suspension of potassium tert-butoxide (12.86 g, 114.56 mmol) and ethyl isocyanoacetate (11.66 mL, 102.65 mmol) in dry THF (150 mL), kept in a separate flask at 0° C. under nitrogen atmosphere. When the addition was complete, the reaction mixture was allowed to come to r.t. and stirred for 45 min. during which the reaction was complete as confirmed by TLC. Reaction mixture was cooled to 0° C. and quenched with 10% acetic acid solution and stirred for 20 min. The crude compound was extracted with ethylacetate. The organic layer was washed with water, separated, dried over Na2SO4 and concentrated in vacuo to afford the crude compound which was purified by column chromatography (neutral alumina using neutral alumina, 3:7 EtOAc:Pet.Ether) to afford a viscous gel which was further purified by crystallisation from diethyl ether and hexane to afford 4H,6H-2,5,10b-triaza-benzo[e]azulene-3,5-dicarboxylic acid 5-tert-butyl ester 3-ethyl ester a white solid (4.4 g, 33%)

reactant | 2-oxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 38.16 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=CC=C2)=O | C14H18N2O3
reactant | potassium tert-butoxide | 56.76 mmol, 6.4 g | CC(C)([O-])C.[K+]
reactant | diethylchlorophosphate | 11 mL | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
reactant | potassium tert-butoxide | 114.56 mmol, 12.86 g | CC(C)([O-])C.[K+]
reactant | ethyl isocyanoacetate | 102.65 mmol, 11.66 mL | [N+](#[C-])CC(=O)OCC | C5H7NO2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4H,6H-2,5,10b-triaza-benzo[e]azulene-3,5-dicarboxylic acid 5-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C=1N=CN2C3=C(CN(CC12)C(=O)OC(C)(C)C)C=CC=C3 | C19H23N3O4
